US07307094B2
A mixture of 6-bromo-2-p-tolylbenzoxazole-4-carboxylic acid (85 mg, 0.26 mmol), 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride (85 mg, 0.31 mmol), 1-hydroxybenzotriazole (69 mg, 0.51 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (98 mg, 0.51 mmol) in DMF (5 mL) was stirred for 10 min at room temperature, then triethylamine (0.12 mL, 1.02 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate (20 mL), and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with ethyl acetate (2×50 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude material was purified by column chromatography (silica gel, 90:9:1 ethyl acetate/methanol/concentrated ammonium hydroxide) followed by recrystallization from acetonitrile to afford N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-6-bromo-2-p-tolylbenzoxazole-4-carboxamide (30 mg, 25%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 8.94 (d, J=7.3 Hz, 1H), 8.33 (d, J=1.8 Hz, 1H), 8.12 (d, J=8.2 Hz, 2H), 7.83 (d, J=1.9 Hz, 1H), 7.39 (d, J=8.0 Hz, 2H), 4.63-4.50 (m, 1H), 3.12 (d, J=10.6 Hz, 2H), 2.70-2.55 (m, 2H), 2.54 (s, 3H), 2.48 (s, 3H), 2.20-1.95 (m, 2H), 1.65-1.45 (m, 4H), 1.20-1.10 (m, 2H); MS (ESI+) m/z 468 (M+H); HPLC 98.4% (AUC), tR=14.06 min.

reactant | 6-bromo-2-p-tolylbenzoxazole-4-carboxylic acid | 0.26 mmol, 85 mg | BrC=1C=C2C(N=C(O2)C2=CC=C(C=C2)C)=C(C1)C(=O)O | C15H10BrNO3
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | 0.31 mmol, 85 mg | Cl.Cl.NC1CC2CCCC(C1)N2C
reactant | 1-hydroxybenzotriazole | 0.51 mmol, 69 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.51 mmol, 98 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 1.02 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-6-bromo-2-p-tolylbenzoxazole-4-carboxamide | 30 mg, 25% | CN1C2CC(CC1CCC2)NC(=O)C=2C=C(C=C1C2N=C(O1)C1=CC=C(C=C1)C)Br | C24H26BrN3O2
